US08871756B2
N-[2-(1,1-Dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methylquinazolin-4-yl]-2,2-difluoropropane-1,3-diamine
The title compound was prepared in analogy to Example 56-1 in Scheme 23 by using 2,4-dichloro-6-methylquinazoline, 2,2-difluoropropane-1,3-diamine and 2,3,4,5-tetrahydro-1,4-benzothiazepine 1,1-dioxide. MS obsd. (ESI+) [(M+H)+] 448, 1H NMR (400 MHz, CD3OD) δ ppm 8.06-8.04 (dd, J=1.2, 7.6 Hz, 1 H), 7.99 (s, 1 H), 7.84-7.82 (d, J=7.6 Hz, 1 H), 7.72-7.67 (m, 2 H), 7.63-7.58 (m, 1 H), 7.56-7.54 (dd, J=1.2, 8 Hz, 1 H), 5.35 (s, 2 H), 4.54 (s, 2 H), 4.44-4.37 (t, J=14 Hz, 2 H), 3.72-3.64 (m, 4 H), 2.46 (s, 3 H).

reactant | 2,4-dichloro-6-methylquinazoline | ClC1=NC2=CC=C(C=C2C(=N1)Cl)C | C9H6Cl2N2
reactant | 2,2-difluoropropane-1,3-diamine | FC(CN)(CN)F | C3H8F2N2
reactant | 2,3,4,5-tetrahydro-1,4-benzothiazepine 1,1-dioxide | S1(CCNCC2=C1C=CC=C2)(=O)=O | C9H11NO2S
product | N-[2-(1,1-Dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methylquinazolin-4-yl]-2,2-difluoropropane-1,3-diamine | O=S1(CCN(CC2=C1C=CC=C2)C2=NC1=CC=C(C=C1C(=N2)NCC(CN)(F)F)C)=O | C21H23F2N5O2S
